US07781192B2
75 ml of Fraction 2 which contains 4.8 g of pantothenate were brought to a pH of 7, with stirring, by adding solid calcium hydroxide. The resultant calcium D-pantothenate solution or suspension was then dried by evaporating off water on a rotary evaporator and 8.98 g of a light-brown calcium D-pantothenate powder were obtained which has a content of 57% calcium D-pantothenate. This powder has no tendency to stick together and has good product properties.

reactant | pantothenate | 4.8 g | C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-]
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
product | calcium D-pantothenate | 8.98 g | C(CCNC([C@@H](O)C(C)(C)CO)=O)(=O)[O-].[Ca+2].C(CCNC([C@@H](O)C(C)(C)CO)=O)(=O)[O-] | InChI=1S/2C9H17NO5.Ca/c2*1-9(2,5-11)7(14)8(15)10-4-3-6(12)13;/h2*7,11,14H,3-5H2,1-2H3,(H,10,15)(H,12,13);/q;;+2/p-2/t2*7-;/m11./s1
